US04346088
2-(3-Chloro-2-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline
Obtained by a procedure analogous to that indicated in Example 2 (a), from 2-(3-chloro-2-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide, the reaction mixture being rendered alkaline with a 20% methanolic ammonia solution instead of with triethylamine and worked up as in Example 2 (a). Colorless crystals; melting point 144°-146° C.

reactant | 2-(3-chloro-2-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide | Br.ClC=1C(=C(C=CC1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)C
reactant | ammonia | N | H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(3-Chloro-2-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline | ClC=1C(=C(C=CC1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)C | C19H19Cl2N3O2S2
